* C:\Users\Eric\Documents\GitHub\SolarSimulation\LTSpice_Sim\LT3652_TA04_labtest.asc
XU1 Vin Vin_reg Vin N005 NC_01 N008 Vfb N006 OUT N002 N003 N001 0 LT3652
R1 N002 OUT 0.22
C1 N001 N003 1µ
D1 N004 N003 1N914
D2 0 N001 MBRS340
R2 Vin Vin_reg 12.222Meg
R3 Vin_reg 0 10Meg
R_fb1 OUT N009 47k
R6 N007 N006 910
R_fb3 N009 Vfb 220k
R§NTC N007 0 10K
C2 OUT 0 10µ Rser=0.003
D5 N004 OUT BZX84C6V2L
C4 Vin 0 10µ
C5 N008 0 4.7µ
L1 N001 N002 68µ Ipk=1.7 Rser=0.11 Rpar=21068 Cpar=5.6p mfg="Wurth Elektronik" pn="7447779122 WE-PD M"
R_fb2 N009 0 220k
R4 OUT N005 10k
C6 OUT 0 47µ
C7 OUT 0 47µ
V1 IN 0 7
R5 Vin IN 1
R_load OUT 0 2.17
R8 OUT 0 80k
.model D D
.lib C:\Users\Eric\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10m
.subckt PhotoCell B A
C1 A B 1n
V1 N001 B  PWL(0 0 3u 17.7)
D1 N001 A S2
R1 A N001 75
.model S2 D(Ron=.1 Ilimit=1.2 epsilon=.5)
.ends
* LT3652 - Power Tracking 2A Battery Charger for Solar Power\n1A Solar Panel Powered 3-Stage 12V Lead-Acid Fast/Float Charger\nInput: Up to 16V     Output: Up to 14.4V @ 1A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.ic V(OUT)=3.3
.lib LT3652.sub
.backanno
.end
