* C:\Users\Eric\Documents\GitHub\SolarSimulation\LTSpice_Sim\LT3652_TA04_labtest.asc
XU1 Vin Vin_reg Vin chrg fault N006 Vfb N004 OUT sense N002 N001 0 LT3652
R1 sense OUT 0.22
C1 N001 N002 1µ
D1 N003 N002 1N914
D2 0 N001 MBRS340
R2 Vin Vin_reg 12.222Meg
R3 Vin_reg 0 10Meg
R_fb1 OUT N007 47k
R6 N005 N004 910
R_fb3 N007 Vfb 220k
R§NTC N005 0 10K
C2 OUT 0 10µ Rser=0.003
D5 N003 OUT BZX84C6V2L
C4 Vin 0 10µ
C5 N006 0 4.7µ
L1 N001 sense 68µ Ipk=1.7 Rser=0.11 Rpar=21068 Cpar=5.6p mfg="Wurth Elektronik" pn="7447779122 WE-PD M"
R_fb2 N007 0 220k
R4 OUT chrg 10k
C6 OUT 0 47µ
C7 OUT 0 47µ
V1 IN 0 6.6
R5 Vin IN 1
R_load OUT 0 2
R8 OUT 0 80k
R7 OUT fault 10k
.model D D
.lib C:\Users\Eric\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10m
.subckt PhotoCell B A
C1 A B 1n
V1 N001 B  PWL(0 0 3u 17.7)
D1 N001 A S2
R1 A N001 75
.model S2 D(Ron=.1 Ilimit=1.2 epsilon=.5)
.ends
* LT3652 - Power Tracking 2A Battery Charger for Solar Power\n1A Solar Panel Powered 3-Stage 12V Lead-Acid Fast/Float Charger\nInput: Up to 16V     Output: Up to 14.4V @ 1A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.ic V(OUT)=3.3
.lib LT3652.sub
.backanno
.end
